US08877782B2
(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone
A solution of trimethylaluminium (2 M in toluene, 504 μL, 1.0 mmol) was added dropwise (exothermic) to a solution of thiomorpholine-S,S-dioxide (136 mg, 1.0 mmol) in dioxane (7 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.25 mmol) in dioxane (4 mL) was added. The resulting mixture was then heated at 85-95° C. for 4 days and then cooled to room temperature and then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (32 mg, 25%) which was obtained as an off white solid. MS: m/e=500.0 [M+H]+.

reactant | trimethylaluminium | 1.0 mmol, 2 M, 504 μL | C[Al](C)C
reactant | thiomorpholine-S,S-dioxide | 1.0 mmol, 136 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C18H12F4N2O4
reactant | water | O | H2O
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone | 32 mg, 25% | O=S1(CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H17F4N3O5S
